US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(piperidin-2-ylmethyl)quinolin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 1-(piperidin-2-yl)methanamine. MS obsd. (ESI+) [(M+H)+] 451, 1H NMR (400 MHz, CD3OD) δ ppm 8.07 (d, J=7.6 Hz, 1 H), 7.93 (s, 1 H), 7.85 (d, J=7.6 Hz, 1 H), 7.73-7.70 (m, 2 H), 7.62-7.58 (m, 2 H), 6.02 (s, 1 H), 5.35 (s, 2 H), 4.51 (s, 2 H), 3.75-3.71 (m, 4 H), 3.51-3.40 (m, 2 H), 2.98-2.92 (m, 1 H), 2.46 (s, 3 H), 2.11-2.05 (m, 1 H), 1.96-1.90 (m, 2 H), 1.78-1.56 (m, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 1-(piperidin-2-yl)methanamine | N1C(CCCC1)CN | C6H14N2
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(piperidin-2-ylmethyl)quinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCC2NCCCC2)C)=O | C25H30N4O2S
